US07153878B2
1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethanol (0.15 g, 0.553 mmol) and 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester (0.12 g, 0.610 mmol) are stirred in 10 mL toluene at 0° C. under a nitrogen atmosphere. Tri-n-butylphosphine (0.21 mL, 0.83 mmol) is added followed by 1,1′-(Azodicarbonyl)dipiperidine (0.21 g, 0.83 mmol). The mixture is allowed to stir at room temperature for 20 hr. The resulting slurry is concentrated under reduced pressure. 50 mL of a 1:1 solution of ethyl acetate:hexanes is added, and the slurry is filtered. The resulting solution is concentrated and purified by silica gel chromatography eluting with a mixture of 8:2 hexanes:ethyl acetate yielding 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethoxy}-phenyl)-propionic acid methyl ester as a white solid, 0.176 g (71%). MS (M++1) 446.

reactant | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethanol | 0.553 mmol, 0.15 g | CC=1N=C(OC1C(C)O)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NO2
reactant | 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 0.610 mmol, 0.12 g | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
reactant | Tri-n-butylphosphine | 0.83 mmol, 0.21 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 0.83 mmol, 0.21 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-ethoxy}-phenyl)-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OC(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C24H24F3NO4
